US05654484
Step A: N,N'-Bis[(phenyl)methyl]-1,7-heptanediamine
Combine 1,7-diaminoheptane (65.0 g, 0.5 mol), benzaldehyde (106 gm, 1 mol) and platinum oxide (PTO2) [2.0 g] in ethanol (800 ml) and treat the mixture with hydrogen gas (45 lb/in2) until the uptake of gas ceases. Remove the catalyst by filtration and remove the solvent in vacuo. Purify the residue by bulb to bulb distillation to yield 99.4 g of the title compound (bp 191°-195° C. @ 1.0 mm/Hg).

reactant | 1,7-diaminoheptane | 0.5 mol, 65.0 g | NCCCCCCCN | C7H18N2
reactant | benzaldehyde | 1 mol, 106 gm | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | 45 lb | [H][H] | H2
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | platinum oxide | 2.0 g | [Pt]=O
product | N,N'-Bis[(phenyl)methyl]-1,7-heptanediamine | 99.4 g | C1(=CC=CC=C1)CNCCCCCCCNCC1=CC=CC=C1 | C21H30N2
